US04278686
p-Nitrobenzyl (5R,6R)-3-(2-acetamidoethylthio)-6-(1-hydroxyethyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (e10) (80 mg) was treated with methanesulphonyl chloride and triethylamine in dichloromethane as described in Example 1. After work-up, evaporation of the dichloromethane solution afforded p-nitrobenzyl (5R,6R)-3-(2-acetamidoethylthio)-6-[(S)-1-methylsulphonyloxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (e11) as a pale-yellow foam (67 mg); νmax (CH2Cl2) 1780, 1700, 1675, 1425, 1245 and 1175 cm-1.

reactant | p-Nitrobenzyl (5R,6R)-3-(2-acetamidoethylthio)-6-(1-hydroxyethyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 80 mg | C(C)(=O)NCCSC1=C(N2C([C@H]([C@H]2C1)C(C)O)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C20H23N3O7S
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | p-nitrobenzyl (5R,6R)-3-(2-acetamidoethylthio)-6-[(S)-1-methylsulphonyloxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 67 mg | C(C)(=O)NCCSC1=C(N2C([C@H]([C@H]2C1)[C@H](C)OS(=O)(=O)C)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C21H25N3O9S2
